***********************************************************************
**  v1.7.5 PSpice Models Library - TI NexFET Power N/P Channel FET's
*  (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
* Notice:
* The data and models provided herein are intended to be used by 
* customers as an aid in designing electrical circuits using 
* semiconductor devices manufactured &/or sold by Texas Instruments.
* The models and associated information contained herein are not to
* be construed as a guarantee of electrical performance and/or device 
* specification.  Therefore, Texas Instruments does not assume any 
* liability arising out of the use of said data or models, nor from
* the devices or products manufactured therefrom.  Texas Instruments
* does not convey any license under its patent rights nor the rights
* of others.  Texas Instruments reserves the right to change models 
* without prior notice.  
*
* TI is a registered trademark of Texas Instruments Inc.
*************************************************************************
********************************************************************************
*
* Released by: Webench Design Center, Texas Instruments Inc.
* Part: CSD18531Q5A
* Date: 08/20/2012
* Model Type: TRANSIENT
* Simulator: PSPICE
* Datasheet: SLPS321B - AUGUST 2012
*
*****************************************************************************
 *$
**********************************************************************
**********************************************************************
*                                                                    *
* CSD18531Q5A   -  PSpice Model for use with OrCAD                   *
*                                                                    *
**********************************************************************
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+ (	0	1.49E-09	)
+ (	0.5	1.49E-09	)
+ (	1	1.48E-09	)
+ (	1.5	1.47E-09	)
+ (	2	1.47E-09	)
+ (	2.5	1.46E-09	)
+ (	3	1.45E-09	)
+ (	3.5	1.45E-09	)
+ (	4	1.44E-09	)
+ (	4.5	1.44E-09	)
+ (	5	1.44E-09	)
+ (	5.5	1.43E-09	)
+ (	6	1.43E-09	)
+ (	6.5	1.43E-09	)
+ (	7	1.43E-09	)
+ (	7.5	1.43E-09	)
+ (	8	1.43E-09	)
+ (	8.5	1.43E-09	)
+ (	9	1.43E-09	)
+ (	9.5	1.43E-09	)
+ (	10	1.44E-09	)
+ (	10.5	1.44E-09	)
+ (	11	1.49E-09	)
+ (	11.5	1.50E-09	)
+ (	12	1.50E-09	)
+ (	12.5	1.50E-09	)
+ (	13	1.50E-09	)
+ (	13.5	1.50E-09	)
+ (	14	1.50E-09	)
+ (	14.5	1.50E-09	)
+ (	15	1.49E-09	)
+ (	15.5	1.49E-09	)
+ (	16	1.49E-09	)
+ (	16.5	1.49E-09	)
+ (	17	1.49E-09	)
+ (	17.5	1.49E-09	)
+ (	18	1.49E-09	)
+ (	18.5	1.49E-09	)
+ (	19	1.49E-09	)
+ (	19.5	1.49E-09	)
+ (	20	1.49E-09	)
+ (	20.5	1.48E-09	)
+ (	21	1.48E-09	)
+ (	21.5	1.48E-09	)
+ (	22	1.48E-09	)
+ (	22.5	1.48E-09	)
+ (	23	1.48E-09	)
+ (	23.5	1.48E-09	)
+ (	24	1.48E-09	)
+ (	24.5	1.48E-09	)
+ (	25	1.48E-09	)
+ (	25.5	1.47E-09	)
+ (	26	1.47E-09	)
+ (	26.5	1.47E-09	)
+ (	27	1.47E-09	)
+ (	27.5	1.47E-09	)
+ (	28	1.47E-09	)
+ (	28.5	1.47E-09	)
+ (	29	1.47E-09	)
+ (	29.5	1.47E-09	)
+ (	30	1.47E-09	)
+ (	30.5	1.46E-09	)
+ (	31	1.46E-09	)
+ (	31.5	1.46E-09	)
+ (	32	1.46E-09	)
+ (	32.5	1.46E-09	)
+ (	33	1.46E-09	)
+ (	33.5	1.46E-09	)
+ (	34	1.46E-09	)
+ (	34.5	1.45E-09	)
+ (	35	1.45E-09	)
+ (	35.5	1.45E-09	)
+ (	36	1.45E-09	)
+ (	36.5	1.45E-09	)
+ (	37	1.45E-09	)
+ (	37.5	1.45E-09	)
+ (	38	1.45E-09	)
+ (	38.5	1.44E-09	)
+ (	39	1.44E-09	)
+ (	39.5	1.44E-09	)
+ (	40	1.44E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+ (	0	2.15E-10	)
+ (	0.5	2.07E-10	)
+ (	1	1.99E-10	)
+ (	1.5	1.94E-10	)
+ (	2	1.90E-10	)
+ (	2.5	1.86E-10	)
+ (	3	1.82E-10	)
+ (	3.5	1.77E-10	)
+ (	4	1.69E-10	)
+ (	4.5	1.58E-10	)
+ (	5	1.49E-10	)
+ (	5.5	1.39E-10	)
+ (	6	1.30E-10	)
+ (	6.5	1.23E-10	)
+ (	7	1.16E-10	)
+ (	7.5	1.04E-10	)
+ (	8	2.21E-11	)
+ (	8.5	2.24E-11	)
+ (	9	2.12E-11	)
+ (	9.5	2.03E-11	)
+ (	10	1.96E-11	)
+ (	10.5	1.90E-11	)
+ (	11	1.85E-11	)
+ (	11.5	1.80E-11	)
+ (	12	1.76E-11	)
+ (	12.5	1.73E-11	)
+ (	13	1.69E-11	)
+ (	13.5	1.66E-11	)
+ (	14	1.63E-11	)
+ (	14.5	1.61E-11	)
+ (	15	1.58E-11	)
+ (	15.5	1.56E-11	)
+ (	16	1.54E-11	)
+ (	16.5	1.52E-11	)
+ (	17	1.50E-11	)
+ (	17.5	1.48E-11	)
+ (	18	1.46E-11	)
+ (	18.5	1.45E-11	)
+ (	19	1.44E-11	)
+ (	19.5	1.42E-11	)
+ (	20	1.41E-11	)
+ (	20.5	1.40E-11	)
+ (	21	1.39E-11	)
+ (	21.5	1.38E-11	)
+ (	22	1.37E-11	)
+ (	22.5	1.36E-11	)
+ (	23	1.35E-11	)
+ (	23.5	1.34E-11	)
+ (	24	1.34E-11	)
+ (	24.5	1.33E-11	)
+ (	25	1.32E-11	)
+ (	25.5	1.32E-11	)
+ (	26	1.31E-11	)
+ (	26.5	1.31E-11	)
+ (	27	1.30E-11	)
+ (	27.5	1.30E-11	)
+ (	28	1.29E-11	)
+ (	28.5	1.29E-11	)
+ (	29	1.29E-11	)
+ (	29.5	1.28E-11	)
+ (	30	1.28E-11	)
+ (	30.5	1.28E-11	)
+ (	31	1.28E-11	)
+ (	31.5	1.27E-11	)
+ (	32	1.27E-11	)
+ (	32.5	1.27E-11	)
+ (	33	1.27E-11	)
+ (	33.5	1.26E-11	)
+ (	34	1.26E-11	)
+ (	34.5	1.26E-11	)
+ (	35	1.26E-11	)
+ (	35.5	1.26E-11	)
+ (	36	1.26E-11	)
+ (	36.5	1.25E-11	)
+ (	37	1.25E-11	)
+ (	37.5	1.25E-11	)
+ (	38	1.25E-11	)
+ (	38.5	1.25E-11	)
+ (	39	1.25E-11	)
+ (	39.5	1.25E-11	)
+ (	40	1.25E-11	)
+ (	40.5	1.25E-11	)
+ (	41	1.25E-11	)
+ (	41.5	1.24E-11	)
+ (	42	1.24E-11	)
+ (	42.5	1.24E-11	)
+ (	43	1.24E-11	)
+ (	43.5	1.24E-11	)
+ (	44	1.244E-11	)
+ (	44.5	1.244E-11	)
+ (	45	1.245E-11	)
+ (	45.5	1.245E-11	)
+ (	46	1.246E-11	)
+ (	46.5	1.246E-11	)
+ (	47	1.247E-11	)
+ (	47.5	1.247E-11	)
+ (	48	1.248E-11	)
+ (	48.5	1.249E-11	)
+ (	49	1.25E-11	)
+ (	49.5	1.25E-11	)
+ (	50	1.251E-11	)
+ (	50.5	1.253E-11	)
+ (	51	1.254E-11	)
+ (	51.5	1.255E-11	)
+ (	52	1.256E-11	)
+ (	52.5	1.257E-11	)
+ (	53	1.259E-11	)
+ (	53.5	1.26E-11	)
+ (	54	1.262E-11	)
+ (	54.5	1.264E-11	)
+ (	55	1.265E-11	)
+ (	55.5	1.267E-11	)
+ (	56	1.269E-11	)
+ (	56.5	1.271E-11	)
+ (	57	1.274E-11	)
+ (	57.5	1.276E-11	)
+ (	58	1.278E-11	)
+ (	58.5	1.28E-11	)
+ (	59	1.283E-11	)
+ (	59.5	1.286E-11	)
+ (	60	1.288E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+ (	0	4.04E-09	)
+ (	0.5	3.71E-09	)
+ (	1	3.32E-09	)
+ (	1.5	3.04E-09	)
+ (	2	2.84E-09	)
+ (	2.5	2.68E-09	)
+ (	3	2.55E-09	)
+ (	3.5	2.44E-09	)
+ (	4	2.34E-09	)
+ (	4.5	2.23E-09	)
+ (	5	2.10E-09	)
+ (	5.5	1.99E-09	)
+ (	6	1.90E-09	)
+ (	6.5	1.82E-09	)
+ (	7	1.75E-09	)
+ (	7.5	1.68E-09	)
+ (	8	1.67E-09	)
+ (	8.5	1.46E-09	)
+ (	9	9.41E-10	)
+ (	9.5	8.97E-10	)
+ (	10	8.58E-10	)
+ (	10.5	8.23E-10	)
+ (	11	7.91E-10	)
+ (	11.5	7.63E-10	)
+ (	12	7.36E-10	)
+ (	12.5	7.12E-10	)
+ (	13	6.90E-10	)
+ (	13.5	6.69E-10	)
+ (	14	6.50E-10	)
+ (	14.5	6.32E-10	)
+ (	15	6.15E-10	)
+ (	15.5	5.99E-10	)
+ (	16	5.84E-10	)
+ (	16.5	5.70E-10	)
+ (	17	5.57E-10	)
+ (	17.5	5.44E-10	)
+ (	18	5.32E-10	)
+ (	18.5	5.21E-10	)
+ (	19	5.11E-10	)
+ (	19.5	5.01E-10	)
+ (	20	4.91E-10	)
+ (	20.5	4.82E-10	)
+ (	21	4.74E-10	)
+ (	21.5	4.66E-10	)
+ (	22	4.58E-10	)
+ (	22.5	4.51E-10	)
+ (	23	4.44E-10	)
+ (	23.5	4.38E-10	)
+ (	24	4.32E-10	)
+ (	24.5	4.26E-10	)
+ (	25	4.21E-10	)
+ (	25.5	4.15E-10	)
+ (	26	4.10E-10	)
+ (	26.5	4.06E-10	)
+ (	27	4.01E-10	)
+ (	27.5	3.97E-10	)
+ (	28	3.93E-10	)
+ (	28.5	3.89E-10	)
+ (	29	3.85E-10	)
+ (	29.5	3.82E-10	)
+ (	30	3.78E-10	)
+ (	30.5	3.75E-10	)
+ (	31	3.72E-10	)
+ (	31.5	3.69E-10	)
+ (	32	3.66E-10	)
+ (	32.5	3.64E-10	)
+ (	33	3.61E-10	)
+ (	33.5	3.59E-10	)
+ (	34	3.56E-10	)
+ (	34.5	3.54E-10	)
+ (	35	3.52E-10	)
+ (	35.5	3.49E-10	)
+ (	36	3.47E-10	)
+ (	36.5	3.45E-10	)
+ (	37	3.43E-10	)
+ (	37.5	3.42E-10	)
+ (	38	3.40E-10	)
+ (	38.5	3.38E-10	)
+ (	39	3.36E-10	)
+ (	39.5	3.35E-10	)
+ (	40	3.33E-10	)
+ (	40.5	3.32E-10	)
+ (	41	3.30E-10	)
+ (	41.5	3.29E-10	)
+ (	42	3.27E-10	)
+ (	42.5	3.26E-10	)
+ (	43	3.25E-10	)
+ (	43.5	3.23E-10	)
+ (	44	3.22E-10	)
+ (	44.5	3.21E-10	)
+ (	45	3.20E-10	)
+ (	45.5	3.19E-10	)
+ (	46	3.18E-10	)
+ (	46.5	3.17E-10	)
+ (	47	3.16E-10	)
+ (	47.5	3.15E-10	)
+ (	48	3.14E-10	)
+ (	48.5	3.13E-10	)
+ (	49	3.12E-10	)
+ (	49.5	3.11E-10	)
+ (	50	3.10E-10	)
+ (	50.5	3.09E-10	)
+ (	51	3.09E-10	)
+ (	51.5	3.08E-10	)
+ (	52	3.07E-10	)
+ (	52.5	3.06E-10	)
+ (	53	3.06E-10	)
+ (	53.5	3.05E-10	)
+ (	54	3.04E-10	)
+ (	54.5	3.04E-10	)
+ (	55	3.03E-10	)
+ (	55.5	3.02E-10	)
+ (	56	3.02E-10	)
+ (	56.5	3.01E-10	)
+ (	57	3.01E-10	)
+ (	57.5	3.00E-10	)
+ (	58	3.00E-10	)
+ (	58.5	2.99E-10	)
+ (	59	2.98E-10	)
+ (	59.5	2.98E-10	)
+ (	60	2.98E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
.SUBCKT CSD18531Q5A  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    7.75e-3  
 .PARAM  ptrc2    2.0e-5
 .PARAM  pwidthP  5.788666666666666666666666666666666666666666666667
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
*M2   12 11 12 20  PMOSd W={pwidthP} L=0.01u PS={perimP} PD={perimP}
*DDx  20  10  DDx
* Note:  gate oxide capacitance included in NMOS below
xcgd	5	10	1	3	cgd
cgs	5	8	1.5e-9
*xcgs	8	5	1	3	cgs
xcds	8	10	1	3	cds
DBD	3	1	DBD
LGG   2  5	 2.1e-9
RGG   5 11	 4.5
RSB  12  9	 RTEMP 0.23166e-3
R   9  8 	 RTEMP 0.23166e-3
RSP   8  6 	 0.55e-3
L   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP 2.57e-3
RDP   4  7	 0.5e-4
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 650
+ UA     = 1.4e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.37        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18       CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -0.85
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.275e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18		gamma	=	10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
******************************************************************* 
.MODEL DBD D (CJO=7.50e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=61
+ IS=7.0e-12 N=1.045 RS=1.2e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
.MODEL DDx D (CJO=0.085e-09 VJ=0.50 M=0.45 IS=1e-12 RS=1.0 TNOM=27)
*******************************************************************
.ENDS CSD18531Q5A
*$